US20010049441A1
1-Benzoyl-3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-5-azaindole (5.8 mg, 41.5%);
from 3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-1H-5-Azaindole (10 mg, 0.0418 mmol), benzoyl chloride (13 μL, 0.12 mmol) and 1M NaN(TMS)2 (100 μL, 0.10 mmol) in THF (1 mL) at RT.

reactant | 3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-1H-5-Azaindole | 0.0418 mmol, 10 mg | C1CCN2CC=C(CC12)C1=CNC2=CC=NC=C12 | C15H17N3
reactant | benzoyl chloride | 0.12 mmol, 13 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | NaN(TMS)2 | 0.10 mmol, 1M, 100 μL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-Benzoyl-3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-5-azaindole | C(C1=CC=CC=C1)(=O)N1C=C(C2=CN=CC=C12)C1=CCN2CCCC2C1 | C22H21N3O
